US06359134B1
1-(6-Aminonaphthalene-2-sulfonyl)-4-[4-(1-imidazolyl)benzoyl]-piperazine
To a solution of 1-[4-(1-imidazolyl)benzoyl]-4-[6-(2,2,2-trichloroethoxycarbonylamino)naphthalene-2-sulfonyl]piperazine (400 mg) in acetic acid (5 ml) was added zinc powder (1 g), and the mixture was stirred at room temperature for 1 day. The reaction solution was filtered, and the filtrate was concentrated. The residue was dissolved in 0.5 N hydrochloric acid, washed with ethyl acetate and made alkaline with 1 N sodium hydroxide aqueous solution. The precipitate was collected by filtration, washed with water and dried to give a colorless solid of the title compound (187 mg).

reactant | 1-[4-(1-imidazolyl)benzoyl]-4-[6-(2,2,2-trichloroethoxycarbonylamino)naphthalene-2-sulfonyl]piperazine | 400 mg | N1(C=NC=C1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)NC(=O)OCC(Cl)(Cl)Cl)C=C1 | C27H24Cl3N5O5S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1 g | [Zn] | Zn
product | 1-(6-Aminonaphthalene-2-sulfonyl)-4-[4-(1-imidazolyl)benzoyl]-piperazine | 187 mg | NC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)N1C=NC=C1)=O | C24H23N5O3S
